US06703387B2
A mixture of 33 mg (0.088 mmol) of (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-1H-1,4-benzodiazepine-1-acetic acid, 30 mg (0.157 mmol) of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride, 16 mg (0.105 mmol) of 1-hydroxybenzotriazole hydrate and 14 mg (0.187 mmol) of 2-methoxyethylamine was stirred in 3 ml of dichloromethane for 3 hours. The solution was washed with saturated sodium bicarbonate solution, dried over magnesium sulphate, filtered and evaporated to dryness. The residue was chromatographed three times on silica gel using dichloromethane/methanol (94:6), dichloromethane/methanol 92:8) and ethyl acetate/methanol (9:1) for the elutions. The product was dissolved in a solution of hydrogen chloride in ethyl acetate, evaporated to dryness and the residue triturated with diethyl ether. There was obtained 5 mg of (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-N-(2-methoxyethyl)-1H-1,4-benzodiazepin-1-acetamide dihydrochloride as a red solid. MS: m/e 431.9 [M+H]+.

reactant | (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-1H-1,4-benzodiazepine-1-acetic acid | 0.088 mmol, 33 mg | ClC=1C=C(C=C\C\2=N/CCN(C3=C2C=CC=C3)CC(=O)O)C=CC1Cl | C19H16Cl2N2O2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.157 mmol, 30 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.105 mmol, 16 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 2-methoxyethylamine | 0.187 mmol, 14 mg | COCCN | C3H9NO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-N-(2-methoxyethyl)-1H-1,4-benzodiazepin-1-acetamide dihydrochloride | 5 mg | Cl.Cl.ClC=1C=C(C=C\C\2=N/CCN(C3=C2C=CC=C3)CC(=O)NCCOC)C=CC1Cl | InChI=1S/C22H23Cl2N3O2.2ClH/c1-29-13-11-26-22(28)15-27-12-10-25-20(17-4-2-3-5-21(17)27)9-7-16-6-8-18(23)19(24)14-16;;/h2-9,14H,10-13,15H2,1H3,(H,26,28);2*1H
